US07977358B2
C] (2S,3R)-3-Hydroxy-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester
Boc anhydride (0.44 g, 2 mmol) in THF (5 ml) was added to a solution of (2S,3R)-2-methyl-pyrrolidin-3-ol hydrochloride (0.28 g, 2 mmol) in aqueous saturated sodium hydrogen carbonate (5 ml) and the mixture stirred for 4 h. The organic layer was separated and concentrated affording the title compound (0.34 g, 85%) as a gum. MS: 202.2 (MH+).

reactant | Boc anhydride | 2 mmol, 0.44 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (2S,3R)-2-methyl-pyrrolidin-3-ol hydrochloride | 2 mmol, 0.28 g | Cl.C[C@@H]1NCC[C@H]1O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
product | (2S,3R)-3-Hydroxy-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.34 g, 85% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](CC1)O)C | C10H19NO3
